US06723744B2
Step C: 4-(2,6-Dimethyl-4-nitro-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol
A solution of 2-(4-Fluoro-benzenesulfonyl)-benzene-1,4-diol (10.0 grams, 37 mmol) in dry 1-methyl-2-pyrrolidinone (100 mL) with 3° A molecular sieves (3.0 grams) was sparged with dry nitrogen for 15 minutes at room temperature. The solution was cooled to 0° C. and potassium bis(trimethylsilyl)amide (18.6 grams, 93.2 mmol) was added in a single portion to give a deep red suspension. The suspension was warmed to room temperature with continued sparging. 18-Crown-6 (10.8 grams 41.0 mmol) was added in a single portion and the resulting solution was cooled to 0° C. To the cooled suspension was added 2-chloro-1,3-dimethyl-5-nitro-benzene (8.30 grams, 44.7 mmol) to give a brown solution and sparging was ceased. The solution was allowed to warm to room temperature and stirred under dry nitrogen for 3 hours. The reaction mixture was poured into 1M hydrochloric acid (1 L) at 0° C. and extracted with ethyl acetate (3 times 300 ml). The combined organic extracts were washed with 1 M hydrochloric acid (4 times 1 L), brine (1 L), dried over anhydrous sodium sulfate and filtered. The filtrate was treated with activated carbon, filtered, and concentrated. The crude product was purified by chromatography on silica gel (150 grams) (methanol:hexanes:methylene chloride=1:9:10, 1.5 L) to give the title compound as a tan solid (11.4 grams). 1H NMR (400 MHz, CD3OD) δ8.05 (s, 1H), 8.00-7.95 (m, 2H), 7.28 (d, 1H), 7.26-7.20 (m, 2H), 6.93 (dd, 1H), 6.82 (d, 1H), 2.19 (s, 6H). MS (APCI−) Calc.: 417.1, Found: 416.0 (M−1).

reactant | 2-(4-Fluoro-benzenesulfonyl)-benzene-1,4-diol | 37 mmol, 10.0 grams | FC1=CC=C(C=C1)S(=O)(=O)C1=C(C=CC(=C1)O)O | C12H9FO4S
reactant | potassium bis(trimethylsilyl)amide | 93.2 mmol, 18.6 grams | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 18-Crown-6 | 41.0 mmol, 10.8 grams | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 2-chloro-1,3-dimethyl-5-nitro-benzene | 44.7 mmol, 8.30 grams | ClC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8ClNO2
solvent | 1-methyl-2-pyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 4-(2,6-Dimethyl-4-nitro-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol | 11.4 grams | CC1=C(OC2=CC(=C(C=C2)O)S(=O)(=O)C2=CC=C(C=C2)F)C(=CC(=C1)[N+](=O)[O-])C | C20H16FNO6S
